US07332500B2
To a solution of 5.0 g 4-butyl-2-oxo-1-oxa-3,8-diaza-spiro[4.5]decane-8-carboxylic acid benzyl ester (14.4 mmol) in 50 mL DMF was added 994 mg of sodium hydride (21.6 mmol, 60% dispersion in mineral oil). The reaction mixture stirred for five minutes and 2.2 mL of cyclohexylmethyl bromide (15.8 mmol) was then added. The reaction mixture stirred under nitrogen for 18 h. The reaction mixture was heated to 70° C. for three h. The reaction mixture cooled to room temperature and was diluted with 500 mL EtOAc and washed twice with water, once with brine. The organics were dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel utilizing a gradient elution (10% to 15% EtOAc/DCM) to provide 4.1 g (65%) of 4-butyl-3-cyclohexylmethyl-2-oxo-1-oxa-3,8-diaza-spiro[4.5]decane-8-carboxylic acid benzyl ester: ms [M]+=443.

reactant | 4-butyl-2-oxo-1-oxa-3,8-diaza-spiro[4.5]decane-8-carboxylic acid benzyl ester | 14.4 mmol, 5.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(C(NC(O2)=O)CCCC)CC1 | C19H26N2O4
reactant | sodium hydride | 21.6 mmol, 994 mg | [H-].[Na+]
reactant | cyclohexylmethyl bromide | 15.8 mmol, 2.2 mL | C1(CCCCC1)CBr | C7H13Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 4-butyl-3-cyclohexylmethyl-2-oxo-1-oxa-3,8-diaza-spiro[4.5]decane-8-carboxylic acid benzyl ester | 4.1 g, 65% | C(C1=CC=CC=C1)OC(=O)N1CCC2(C(N(C(O2)=O)CC2CCCCC2)CCCC)CC1 | C26H38N2O4
